US03959322
dl-17α-Allyl-17-hydroxy-13-propylgon-4-en-3-one
Treat dl-3-methoxy-13-propylgona-2,5(10)-dien-17-one (2.0 g) with allyl magnesium bromide to obtain a glass that is a mixture of dl-17α-allyl-3-methoxy-13-propylgona-2,5(10)-dien-17-ol (minor component) and the Δ5(10) -3-keto and Δ4 -3-keto compounds (major component). Hydrolyze the mixture (in two portions) with hydrochloric acid-isopropanol-water, then chromatograph and crystallize the resultant crude product to obtain the title compound (22% from the starting material), m.p. 135°-137°; ultraviolet absorption peak at 241.5 mμ (ε17,470), infrared maxima at 2.95 μ (OH), 6.03 μ, 6.18 μ (α,β-unsaturated carbonyl), 10.93 μ (R-CH=CH2).

reactant | 3-methoxy-13-propylgona-2,5(10)-dien-17-one | 2.0 g | COC=1CC=2CC[C@@H]3[C@H](CC[C@@]4(C(CC[C@@H]34)=O)CCC)C2CC1 | C21H30O2
reactant | allyl magnesium bromide | C(C=C)[Mg]Br
reactant | 17α-allyl-3-methoxy-13-propylgona-2,5(10)-dien-17-ol | C(C=C)[C@@]1(CC[C@H]2[C@H]3[C@H](CC[C@]12CCC)C=1CC=C(CC1CC3)OC)O | C24H36O2
reactant | hydrochloric acid isopropanol water | Cl.C(C)(C)O.O
product | 17α-Allyl-17-hydroxy-13-propylgon-4-en-3-one | C(C=C)[C@@]1(CC[C@H]2[C@H]3[C@H](CC[C@]12CCC)[C@H]1CCC(C=C1CC3)=O)O | C23H34O2
